US07338960B2
1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol (Method A)
A mixture of 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanone (2.80 g, 9.11 mmol) in THF (61 mL) at 0° C. (ice/water bath) was treated drop-wise with a mixture of sodium borohydride (689 mg, 18.21 mmol) in water (11 mL) over 5-10 minutes. The resulting mixture was stirred at this temperature for 2.5 hours and was then partitioned between EtOAc (200 mL) and water (200 mL) and the layers separated. The aqueous was re-extracted with EtOAc (200 mL) and the combined organic layer washed with brine (250 mL), dried (MgSO4), filtered and reduced. Purification by Biotage™ chromatography (silica) eluting with cyclohexane:EtOAc (gradient 20:1 to 5:1) afforded the title compound as a colourless oil (2.81 g).

reactant | 1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanone | 9.11 mmol, 2.80 g | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)=O)(F)F | C17H16F3NO
reactant | sodium borohydride | 18.21 mmol, 689 mg | [BH4-].[Na+]
solvent | THF | 61 mL | C1CCOC1 | C4H8O
solvent | water | 11 mL | O | H2O
product | 1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}-1-pentanol | 2.81 g | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)O)(F)F | C17H18F3NO
